US07022707B2
Ethanethioic acid, S-[4-(tert-butyldimethylsilyloxy)benzyl] ester:
To an efficiently stirred solution of triphenylphosphine (81 g, 309 mmol) in THF (200 mL) was added diethyl azodicarboxylate (62.5 g, 309 mmol) at 0° C. The mixture was stirred for 30 min, after which time a thick white precipitate was obtained. The crude 4-(tert-butydimethylsilyloxy)-benzyl alcohol (48 g) in THF (100 mL) and thiolacetic acid (36.1 g, 474 mmol) were added dropwise while the temperature was maintained below 10° C. The reaction was stirred overnight while keeping the internal temperature below 10° C. The solvent was removed in vacuo and the residue was purified by flash column chromatography [SiO2: isohexane-ethyl acetate (9:1)] to give the product as a viscous brown oil (30.7 g, 50%).

reactant | triphenylphosphine | 309 mmol, 81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 309 mmol, 62.5 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(tert-butydimethylsilyloxy)-benzyl alcohol | 48 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CO)C=C1 | C13H22O2Si
reactant | thiolacetic acid | 474 mmol, 36.1 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Ethanethioic acid, S-[4-(tert-butyldimethylsilyloxy)benzyl] ester | 30.7 g, 50% | C(C)(SCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C15H24O2SSi
